US09216972B2
A stirred mixture of 3-(5-cyclohexyl-4-(trifluoromethyl)isoxazol-3-yl)-7-vinyl-3,3a,4,5-tetrahydronaphtho[1,2-c]isoxazol-3-ol and thionyl chloride (0.030 g, 0.252 mmol) in toluene (5.0 mL) and pyridine (1.5 mL) was heated at 110° C. for 10 minutes. The reaction mixture was cooled, diluted with 1 N aqueous hydrochloric acid (5.0 mL), and extracted with ethyl acetate (3×20 mL). The ethyl acetate extracts were combined and concentrated to give 3-(5-cyclohexyl-4-(trifluoromethyl)isoxazol-3-yl)-7-vinyl-4,5-dihydronaphtho[1,2-c]isoxazole [0.016 g, 0.039 mmol, 16%] as an orange solid. The product had an HPLC ret. time=4.916 min. (condition B). LC/MS M+1=415.08.

reactant | 3-(5-cyclohexyl-4-(trifluoromethyl)isoxazol-3-yl)-7-vinyl-3,3a,4,5-tetrahydronaphtho[1,2-c]isoxazol-3-ol | C1(CCCCC1)C1=C(C(=NO1)C1(C2C(=NO1)C1=CC=C(C=C1CC2)C=C)O)C(F)(F)F | C23H23F3N2O3
reactant | thionyl chloride | 0.252 mmol, 0.030 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
solvent | hydrochloric acid | 1 N, 5.0 mL | Cl | ClH
product | 3-(5-cyclohexyl-4-(trifluoromethyl)isoxazol-3-yl)-7-vinyl-4,5-dihydronaphtho[1,2-c]isoxazole | 0.039 mmol, 0.016 g, 16% | C1(CCCCC1)C1=C(C(=NO1)C1=C2C(=NO1)C1=CC=C(C=C1CC2)C=C)C(F)(F)F | C23H21F3N2O2
